* c:\users\sabarishmohan\esim-workspace\mc14560b_test\mc14560b_test.cir

.include MC14560B.sub
x1 net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ net-_u10-pad2_ net-_u11-pad5_ net-_u11-pad4_ net-_u11-pad3_ net-_u11-pad2_ net-_u11-pad1_ net-_u9-pad9_ net-_u9-pad10_ MC14560B
* u9  a1 b1 a2 b2 a3 b3 a4 b4 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ adc_bridge_8
* u10  net-_u10-pad1_ net-_u10-pad2_ adc_bridge_1
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ s1 s2 s3 s4 cout dac_bridge_5
v1  a1 gnd pulse(0 5 0 0 0 5 10)
v3  a2 gnd pulse(5 0 0 0 0 5 10)
v5  a3 gnd pulse(0 5 0 0 0 1 2)
v7  a4 gnd pulse(5 0 0 0 0 2 5)
v2  b1 gnd pulse(0 5 0 0 0 5 10)
v4  b2 gnd pulse(0 5 0 0 0 5 10)
v6  b3 gnd pulse(5 0 0 0 0 5 10)
v8  b4 gnd pulse(0 5 0 0 0 5 10)
v9 net-_u10-pad1_ gnd  dc 0
* u1  a1 plot_v1
* u2  b1 plot_v1
* u3  a2 plot_v1
* u4  b2 plot_v1
* u5  a3 plot_v1
* u6  b3 plot_v1
* u7  a4 plot_v1
* u8  b4 plot_v1
* u12  s1 plot_v1
* u13  s2 plot_v1
* u14  s3 plot_v1
* u15  s4 plot_v1
* u16  cout plot_v1
a1 [a1 b1 a2 b2 a3 b3 a4 b4 ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a2 [net-_u10-pad1_ ] [net-_u10-pad2_ ] u10
a3 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ ] [s1 s2 s3 s4 cout ] u11
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a1)
plot v(b1)
plot v(a2)
plot v(b2)
plot v(a3)
plot v(b3)
plot v(a4)
plot v(b4)
plot v(s1)
plot v(s2)
plot v(s3)
plot v(s4)
plot v(cout)
.endc
.end
